US07932399B2
5,6-Dichloro-2-(2-trifluoromethyl-[1,3]-dioxolan-2-yl)-1H-benzimidazole (#47)
1-(5,6-DiChloro-1H-benzoimidazol-2-yl)-2,2,2-trifluoro-ethanone (1.14 g; 4.02 mmol), 2-chloroethanol (0.83 mL; 12.4 mmol) and potassium carbonate (1.68 g; 12.2 mmol) were dissolved in DMF (18 mL). The reaction mixture was stirred for 18 hrs at ambient temperature, then diluted with ethyl acetate (80 mL), washed with water (50 mL) and brine (2×50 mL). The extracts were dried over Na2SO4, filtered, concentrated to a light brown solid and the light brown solid purified by column chromatography (SiO2; 30% ethyl acetate/hexanes) to yield the title compound as a tan solid.

reactant | 1-(5,6-DiChloro-1H-benzoimidazol-2-yl)-2,2,2-trifluoro-ethanone | 4.02 mmol, 1.14 g | ClC1=CC2=C(NC(=N2)C(C(F)(F)F)=O)C=C1Cl | C9H3Cl2F3N2O
reactant | 2-chloroethanol | 12.4 mmol, 0.83 mL | ClCCO | C2H5ClO
reactant | potassium carbonate | 12.2 mmol, 1.68 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 18 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
product | 5,6-Dichloro-2-(2-trifluoromethyl-[1,3]-dioxolan-2-yl)-1H-benzimidazole | ClC1=CC2=C(NC(=N2)C2(OCCO2)C(F)(F)F)C=C1Cl | C11H7Cl2F3N2O2
